US07858652B2
(a) 7-Hydroxy-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester
To a suspension of 1,2,3,4-tetrahydro-quinolin-7-ol (0.50 g, 3.35 mmol) in dichloromethane (40 ml) were added di-tert-butyldicarbonate (1.54 g, 7.04 mmol) and triethylamine (1.86 ml, 13.4 mmol) and the reaction mixture was stirred at 45° C. for 48 hours. The mixture was then acidified to pH 6 by addition of 10% aq. citric acid solution and extracted with dichloromethane. The combined organic phases were washed with saturated brine, dried over sodium sulphate, and concentrated in vacuo. The residue was dissolved in methanol (40 ml) and aq. sodium hydroxide solution (6.70 ml, 13.4 mmol, 2 M) was added. After stirring for 16 hours at 60° C., the mixture was cooled to room temperature and acidified to pH 6 by addition of 10% aq. citric acid solution and extracted with dichloromethane. The combined organic phases were dried over sodium sulphate and concentrated in vacuo to yield the title compound as a colorless oil which was used in the next step without further purification (0.33 g, 40%); MS (ISP): 250.3 ([M+H]+), 194.4 ([M+H-Me2C═CH2]+).

reactant | 1,2,3,4-tetrahydro-quinolin-7-ol | 3.35 mmol, 0.50 g | N1CCCC2=CC=C(C=C12)O | C9H11NO
reactant | di-tert-butyldicarbonate | 7.04 mmol, 1.54 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 13.4 mmol, 1.86 ml | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium hydroxide | 13.4 mmol, 2 M, 6.70 ml | [OH-].[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 7-Hydroxy-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)O | C14H19NO3
